US06329370B1
3-Benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide
A solution of 3-benzyloxy-N,N-diethyl-4-methoxy-benzamide (39.54 g, 126.2 mmoles), prepared as described in example 55, and tetramethylethylendiamine (16.13 g, 138.8 mmoles) in THF (4,250 ml), cooled to −78° C. under N2, was dropwise added with 1.21M sec-butyl lithium (115.64 ml, 138.8 mmoles). After 2 hours DMF (43 ml, 555 mmoles) was added and the mixture was left at −78° C. for 4 hours, then overnight let the temperature rise. The mixture was washed with a 0.4M pH=7 phosphate buffer, the organic phase was separated and the aqueous one was extracted with ethyl ether. The organic phase was anhydrified and dried to give a solid which was filtered off. The mother liquors were brought to dryness and the crude flash chromatographed (eluent: ethyl acetate/petrolatum 1:1) to give 13.76 g of the title compound (yield: 32%).

reactant | 3-benzyloxy-N,N-diethyl-4-methoxy-benzamide | 126.2 mmoles, 39.54 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N(CC)CC)C=CC1OC | C19H23NO3
reactant | tetramethylethylendiamine | 138.8 mmoles, 16.13 g | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyl lithium | 138.8 mmoles, 1.21M, 115.64 ml | C(C)(CC)[Li]
reactant | DMF | 555 mmoles, 43 ml | CN(C)C=O | C3H7NO
solvent | THF | 4,250 ml | C1CCOC1 | C4H8O
product | 3-Benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide | 13.76 g, yield: 32% | C(C1=CC=CC=C1)OC=1C(=C(C(=O)N(CC)CC)C=CC1OC)C=O | C20H23NO4
